US07915250B2
To a solution of (8R)-8-methyl-6-oxo-5-oxa-2,7-diazaspiro[3.4]octane-2-carboxylic acid phenylmethyl ester (1.84 g, 6.6 mmol) in methanol (66 mL) was added wet 10% palladium on carbon (50% by mass, 500 mg). The resulting suspension was stirred under 1 atm of hydrogen for 1 h. The catalyst was then removed by filtration through celite. The filtrate was concentrated in vacuo to provide (8R)-8-methyl-5-oxa-2,7-diazaspiro[3.4]octan-6-one as a white solid (0.99 g, quantitative yield). 1H NMR (400 MHz, CDCl3) δ 5.23 (br s, 1H), 4.07 (d, 1H), 4.02 (d, 1H), 3.92 (d, 1H), 3.79 (d, 1H), 3.58 (d, 1H), 1.38 (d, 3H); MS (EI) for C6H10N2O2: 143 (MH+).

reactant | (8R)-8-methyl-6-oxo-5-oxa-2,7-diazaspiro[3.4]octane-2-carboxylic acid phenylmethyl ester | 6.6 mmol, 1.84 g | C1(=CC=CC=C1)COC(=O)N1CC2(C1)OC(N[C@@H]2C)=O | C14H16N2O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 66 mL | CO | CH4O
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
product | (8R)-8-methyl-5-oxa-2,7-diazaspiro[3.4]octan-6-one | 0.99 g, quantitative yield | C[C@H]1NC(OC12CNC2)=O | C6H10N2O2
